US08871782B2
p-Toluenesulfonyl chloride (8.0 g, 42 mmol) was added over ten minutes to a stirred mixture of tert-butyl 3-{[2-(2-methoxyethyl)-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate (19.3 g, 42.0 mmol) in dichloromethane (300 mL) and concentrated ammonium hydroxide (300 mL) at 7° C. The mixture was allowed to stir for 20 minutes, then the cooling bath was removed and the mixture was allowed to stir at ambient temperature for 2 hours. The layers were separated and the aqueous layer was extracted with dichloromethane. The organic layers were combined, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure. Recrystallization from acetonitrile afforded 12.0 g of tert-butyl 3-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate as flocculent white crystals, mp 133.5-135° C.

reactant | p-Toluenesulfonyl chloride | 42 mmol, 8.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butyl 3-{[2-(2-methoxyethyl)-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate | 42.0 mmol, 19.3 g | COCCC=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCCCNC(OC(C)(C)C)=O)[O-])N1)CCC | C24H34N4O5
reactant | ammonium hydroxide | 300 mL | [OH-].[NH4+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | tert-butyl 3-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate | 12.0 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)CCOC)OCCCNC(OC(C)(C)C)=O | C24H35N5O4
